US05116869
A solution of 3.30 g of 5-(1-hydroxy-6-methoxycarbonylhexyl)-4-(3-t-butyldimethylsilyloxy-1-octenyl)-2-cyclopentenone in methanol (25 ml) was cooled to 0° C., and 48 ml of an aqueous 30% hydrogen peroxide and 0.48 ml of an aqueous 1N sodium hydroxide were dropwise added thereto. After stirring at 0° C. for 3 hours, the reaction mixture was extracted with an addition of ethyl acetate and saturated aqueous ammonium chloride, and the extract was washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and filtered, followed by concentration. The concentrate was subjected to silica gel chromatography to give 2.54 g (yield 74%) of 2,3-epoxy-5-(1-hydroxy-6-methoxycarbonylhexyl)-4-(3-t-butyldimethylsilyloxy-1-octenyl)cyclopentanone.

reactant | 5-(1-hydroxy-6-methoxycarbonylhexyl)-4-(3-t-butyldimethylsilyloxy-1-octenyl)-2-cyclopentenone | 3.30 g | OC(CCCCCC(=O)OC)C1C(C=CC1=O)C=CC(CCCCC)O[Si](C)(C)C(C)(C)C | C27H48O5Si
reactant | hydrogen peroxide | OO | H2O2
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | methanol | 25 ml | CO | CH4O
product | 2,3-epoxy-5-(1-hydroxy-6-methoxycarbonylhexyl)-4-(3-t-butyldimethylsilyloxy-1-octenyl)cyclopentanone | 2.54 g, yield 74% | O1C2C(C(C(C21)C=CC(CCCCC)O[Si](C)(C)C(C)(C)C)C(CCCCCC(=O)OC)O)=O | C27H48O6Si
